US07129208B2
Boc-Pro-Gly-Gly-Gly-OCH2Ph (SEQ ID NO.: 1) (0.2 g, 0.42 mmol) was dissolved in a 4N HCl solution in dioxane (10 mL) at 5° C. and the reaction mixture was stirred for 1 h at room temperature. The solvent was evaporated and the residue carefully dried at high vacuum and then crystallized from MeOH/Et2O to give Pro-Gly-Gly-Gly-OCH2Ph (SEQ ID NO.: 1) (0.18 g, 100%) as a colorless solid, mp 145–146° C. 1H-NMR (300 MHz, δ, CD3OD): 2.00–2.25 (4H, m), 3.35–3.45 (2H, m), 3.90–4.05 (6H, m), 4.30–4.40 (1H, m), 5.18 (2H, s), 7.30–7.40 (5H, m). 13C-NMR (75 MHz, δ, CD3OD): 25.2, 30.9, 42.1, 43.3, 43.7, 47.6, 61.4, 68.1, 129.5, 129.6, 129.9, 137.5, 170.9, 171.4, 171.8, 172.4.

reactant | Boc-Pro-Gly-Gly-Gly-OCH2Ph | N1([C@H](C(=O)NCC(=O)NCC(=O)NCC(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C23H32N4O7
solvent | HCl | 4N | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | Pro-Gly-Gly-Gly-OCH2Ph | N1[C@H](C(=O)NCC(=O)NCC(=O)NCC(=O)OCC2=CC=CC=C2)CCC1 | C18H24N4O5
